US05719186
A mixture of 4-(4-fluorophenyl)butyric acid (68.2 g, 0.37 mol) and thionyl chloride (155 g, 1.3 mol) was refluxed for 1.25 h. The mixture was concentrated in vacuo to give 75.3 g (100%) of 4-(4-fluorophenyl)butyryl chloride)

reactant | 4-(4-fluorophenyl)butyric acid | 0.37 mol, 68.2 g | FC1=CC=C(C=C1)CCCC(=O)O | C10H11FO2
reactant | thionyl chloride | 1.3 mol, 155 g | S(=O)(Cl)Cl | Cl2OS
product | 4-(4-fluorophenyl)butyryl chloride | 75.3 g, 100% | FC1=CC=C(C=C1)CCCC(=O)Cl | C10H10ClFO
